US07728023B2
methyl (4-bromo-1H-indol-3-yl)acetic acid
To methanol (10 mL), thionyl chloride (0.76 mL) was added dropwise at −15 to −10° C., followed by stirring for 30 minutes. To the mixture, (4-bromo-1H-indol-3-yl)acetic acid (Chemical and Pharmaceutical Bulletin, 33(9), 3696-3708 (1985), 1.32 g) was added, followed by stifling at room temperature for 2 hours. To the reaction mixture, an aqueous saturated sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic layer was washed in turn with water and saturated saline, dried and then concentrated. The residue was washed with diisopropyl ether/n-hexane (1:2) to obtain the titled compound having the following physical properties (1.26 g).

reactant | thionyl chloride | 0.76 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (4-bromo-1H-indol-3-yl)acetic acid | 1.32 g | BrC1=C2C(=CNC2=CC=C1)CC(=O)O | C10H8BrNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | methyl (4-bromo-1H-indol-3-yl)acetic acid | CC(C(=O)O)C1=CNC2=CC=CC(=C12)Br | C11H10BrNO2
